US08895547B2
(S)-3-(2-Fluorophenyl)-3-[5,6,6-trimethyl-4,4-dioxo-5-(3-pyrimidin-5-ylphenyl)-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino]propan-1-ol
Under inert gas, 45 mg of [5-(3-bromophenyl)-5,6,6-trimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl]-[(S)-3-(tert-butyldimethylsilanyloxy)-1-(2-fluorophenyl)propyl]amine, 11 mg of pyrimidine-5-boronic acid and 96 mg of cesium carbonate were dissolved in a mixture of 1 ml of dioxane and 0.4 ml of water. After purging with argon for 10 minutes, 6 mg of dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium were added and the reaction mixture was stirred at 80° C. for 4 hours. The reaction mixture was allowed to cool to room temperature, diluted with ethyl acetate and washed with water. The organic phase was dried using a diatomaceous earth cartridge (Varian Chem Elut®) and concentrated by rotary evaporation. To detach the protecting group, the residue was dissolved in 1.5 ml of methanol, 0.18 ml of concentrated hydrochloric acid was added and the mixture was stirred at room temperature for 2.5 hours. After the removal of the solvent under reduced pressure, the crude product was purified in a purification laboratory by means of preparative HPLC. The product-containing fractions were combined, the acetonitrile was removed under reduced pressure, and the aqueous residue was basified with saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The organic phase was dried over MgSO4 and concentrated by rotary evaporation, and the residue was taken up again in a mixture of acetonitrile and water and lyophilized. This gave the product (12.6 mg) with a molecular weight of 498.6 g/mol (C25H27N4O4S); MS (ESI): m/e=499 (M+H+).

reactant | [5-(3-bromophenyl)-5,6,6-trimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl]-[(S)-3-(tert-butyldimethylsilanyloxy)-1-(2-fluorophenyl)propyl]amine | 45 mg | BrC=1C=C(C=CC1)C1(S(N=C(OC1(C)C)N[C@@H](CCO[Si](C)(C)C(C)(C)C)C1=C(C=CC=C1)F)(=O)=O)C | C27H38BrFN2O4SSi
reactant | pyrimidine-5-boronic acid | 11 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | cesium carbonate | 96 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.4 ml | O | H2O
product | (S)-3-(2-Fluorophenyl)-3-[5,6,6-trimethyl-4,4-dioxo-5-(3-pyrimidin-5-ylphenyl)-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino]propan-1-ol | 12.6 mg | FC1=C(C=CC=C1)[C@H](CCO)NC=1OC(C(S(N1)(=O)=O)(C1=CC(=CC=C1)C=1C=NC=NC1)C)(C)C | C25H27FN4O4S
